US05840898
To a mixture of 1-(7-amino-2,3-dihydro-benzo[1,4]dioxin-6-yl)-2-chloro-ethanone (230 g. 1.01 mol) prepared as in example 15, in acetonitrile (1.5 L) and triethylamine (197 mL, 1.41 mol, 1.4 eq) is added ethyl malonyl chloride (180 mL, 1.41 mol, 1.4 eq) over 0.5 h while keeping the reaction temperature less than 30° C. with an ice bath. After the addition is complete the reaction is stirred 1.5 h at room temperature. A second charge of triethylamine (140 mL, 1.01 mol, 1.0 eq) is added and the reaction is stirred for 4.5 hours. Water (2.1 L) is added slowly followed by conc. HCl (115 mL). The slurry is stirred overnight at rt, filtered, and the solid washed with water (460 mL). The solid is then dried under high vacuum (about 1 mm Hg) at 40° C. to yield 9-chloromethyl-7-oxo-2,3,6,7-tetrahydro[1,4]dioxino[2,3-g]quinoline-8-carboxylic acid ethyl ester as a yellow solid. HRMS (EI+): calc for C15H14NO5Cl: 323.0561, Found: 323.0556.

reactant | 1-(7-amino-2,3-dihydro-benzo[1,4]dioxin-6-yl)-2-chloro-ethanone | 1.01 mol, 230 g | NC=1C(=CC2=C(OCCO2)C1)C(CCl)=O | C10H10ClNO3
reactant | triethylamine | 1.41 mol, 197 mL, 1.4 eq | C(C)N(CC)CC | C6H15N
reactant | ethyl malonyl chloride | 1.41 mol, 180 mL, 1.4 eq | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | triethylamine | 1.01 mol, 140 mL, 1.0 eq | C(C)N(CC)CC | C6H15N
reactant | HCl | 115 mL | Cl | ClH
reactant | Water | 2.1 L | O | H2O
solvent | acetonitrile | 1.5 L | C(C)#N | C2H3N
product | 9-chloromethyl-7-oxo-2,3,6,7-tetrahydro[1,4]dioxino[2,3-g]quinoline-8-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(NC=2C=C3C(=CC2C1CCl)OCCO3)=O | C15H14ClNO5
